US04654347
N-[3-(3-Benzoylpyrazolo[1,5-a]pyrimidin-7-yl)phenyl]-2-dimethylamino-N-methylacetamide
A suspension of 1.7 g of N-[3-(3-benzoylpyrazolo[1,5-a]pyrimidin-7-yl)phenyl]-2-bromo-N-methylacetamide in 100 ml of ethanol was treated with gaseous dimethylamine until a solution resulted. This was then placed in a pressure bottle and kept at room temperature for 16 hours. The ethanol was removed in vacuo and the residue partitioned between 50 ml of saturated aqueous sodium bicarbonate solution and 100 ml of methylene chloride. The methylene chloride layer was separated, dried over magnesium sulfate, and the methylene chloride removed in vacuo. The residue was dissolved in 50 ml of methylene chloride, the solution then treated with hexane at the boiling point until turbidity was present. Cooling at -10° C. gave a low yield of tacky solid. The cold mixture was treated with activated charcoal, clarified and the filtrate again treated at the boiling point with hexane until turbidity occurred. Cooling at -10° C. gave 0.3 g of the desired compound as a bright yellow solid, mp 166°-168° C.

reactant | N-[3-(3-benzoylpyrazolo[1,5-a]pyrimidin-7-yl)phenyl]-2-bromo-N-methylacetamide | 1.7 g | C(C1=CC=CC=C1)(=O)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)N(C(CBr)=O)C | C22H17BrN4O2
reactant | dimethylamine | CNC | C2H7N
reactant | charcoal | C | CH4
reactant | hexane | CCCCCC | C6H14
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-[3-(3-Benzoylpyrazolo[1,5-a]pyrimidin-7-yl)phenyl]-2-dimethylamino-N-methylacetamide | 0.3 g | C(C1=CC=CC=C1)(=O)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)N(C(CN(C)C)=O)C | C24H23N5O2
